US09388189B2
(S)—N-(3-Hydroxy-5-(4-((3-hydroxy-1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)propyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenyl)methanesulfonamide
(S)—N-(3-Hydroxy-5-(4-((3-hydroxy-1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)propyl)amino)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenyl)methanesulfonamide (35 mg, 0.03 mmol, 65% purity) was treated with trifluoroacetic acid (1.0 ml, 12.98 mmol) and a solution of ammonia (7N in methanol, 5.0 ml, 35.0 mmol) according to the method described in Example 27. The residue was purified using SP1® Purification System (0% to 5% dichloromethane-methanol) to obtain 11 mg (59% yield) of the title compound.

reactant | (S)—N-(3-Hydroxy-5-(4-((3-hydroxy-1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)propyl)amino)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenyl)methanesulfonamide | 0.03 mmol, 35 mg | OC=1C=C(C=C(C1)C1=CN(C=2N=CN=C(C21)N[C@@H](CCO)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C)NS(=O)(=O)C | C35H42N8O6SSi
reactant | trifluoroacetic acid | 12.98 mmol, 1.0 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | ammonia | 35.0 mmol, 7N, 5.0 ml | N | H3N
product | (S)—N-(3-Hydroxy-5-(4-((3-hydroxy-1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)propyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenyl)methanesulfonamide | 11 mg, 59% yield | OC=1C=C(C=C(C1)C1=CNC=2N=CN=C(C21)N[C@@H](CCO)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)NS(=O)(=O)C | C29H28N8O5S
